US05218009
Preparation of diphenyl-[2,2-bis-(chloromethyl)-propionyl]-phosphine oxide
3.8 g (0.02 mol) of dichloropivaloyl chloride are introduced into 20 ml of toluene and heated to 80° C. 4.3 g (0.02 mol) of methoxydiphenylphosphine are added dropwise in the course of about 5 minutes to this solution, methyl chloride escaping. After stirring for 1 hour at 80° C., the slightly yellow solution is cooled to room temperature and evaporated in a rotary evaporator. After purification by means of chromatography (solvent: hexane/ethyl acetate 3:1), this gives 1.6 g, i.e. 22.8% of theory, of the abovementioned compound as a yellow resin.

reactant | dichloropivaloyl chloride | 0.02 mol, 3.8 g | ClC(C(C(=O)Cl)(C)C)Cl | C5H7Cl3O
reactant | methoxydiphenylphosphine | 0.02 mol, 4.3 g | COP(C1=CC=CC=C1)C1=CC=CC=C1 | C13H13OP
reactant | methyl chloride | CCl | CH3Cl
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | diphenyl-[2,2-bis-(chloromethyl)-propionyl]-phosphine oxide | C1(=CC=CC=C1)P(C(C(C)(CCl)CCl)=O)(C1=CC=CC=C1)=O | C17H17Cl2O2P
